### PR TITLE
add corres_cases method

### PR DESCRIPTION
**Pull request by lsf37**
Add safe datatype case distinction for corres -- wpc turns out to be  insufficient even after generalisation of the helper predicate.
    
- `corres_cases_left`: case distinction on abstract monad
- `corres_cases_right`: case distinction on concrete monad
- `corres_cases`: case distinction first of abstract/concrete monad
- `corres_cases_both`: simultaneous (quadratic) case distinction on both sides, with safe elimination of trivially contradictory cases

Main intended benefit is less thinking about safety of schematics, fewer mentions of goal parameter names, and fewer manual guard instantiations.

The PR also removes the old defunct wpc setup for corres and changes a few proofs in refine/ARM to demonstrate how the method is intended to be used.

### CODE REVIEW

File: lib/Corres_Method.thy [hunk 1]
```diff
@@ -5,22 +5,9 @@
  *)
 
 theory Corres_Method
-imports Corres_UL SpecValid_R
+imports Corres_Cases SpecValid_R
 begin
 
-(*TODO move this *)
-
-method_setup repeat_new =
```
Comment (Xaphiosis) [inline lib/Corres_Method.thy:13]: this got removed in this commit, but I've not seen it moved... does that mean we have an existing `repeat_new` this was shadowing?

File: lib/Corres_Cases.thy [hunk 2]
```diff
@@ -0,0 +1,319 @@
...
+imports Corres_UL
+begin
+
+text \<open>
+  This file defines the following main methods for safe data type case distinctions on
+  corres/corres_underlying predicates.
+
+  \<^item> corres_cases_left: case distinction on abstract monad
+  \<^item> corres_cases_right: case distinction on concrete monad
+  \<^item> corres_cases: case distinction first of abstract/concrete monad
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:17]: I am not clear on what this means here or in the commit message: "case distinction first of abstract/concrete monad"
Does this mean it will apply it to the first side it is able to out of those two, starting with abstract side and if that fails moving on to concrete side? If so, this could be phrased a bit more clearly.

File: lib/Corres_Cases.thy [hunk 3]
```diff
@@ -0,0 +1,319 @@
...
+  \<^item> corres_cases_both: simultaneous (quadratic) case distinction on both sides, with safe
+                       elimination of trivially contradictory cases.
+
+  The first 3 methods take no arguments, corres_cases_both takes an optional simp argument to,
+  for example, unfold relations that synchronises cases between abstract and concrete side.
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:22]: "synchronise cases"?

File: lib/Corres_Cases.thy [hunk 4]
```diff
@@ -0,0 +1,319 @@
...
+
+  The case distinctions work if the entire monad is a "case" statement, or if the monad is a
+  @{const bind} or @{const bindE} term with a "case" statement in the head position.
+
+  There is an existing method for case distinctions (@{method wpc}), but this method is not
+  flexible enough for @{term corres}. The reason for this is that @{method wpc}
+  will always treat abstract and concrete guards the same way. This doesn't always work, because
+  the abstract guard usually only depends on abstract values and the concrete guard only on
+  concrete values. If we make a case distinction on such an abstract value, the concrete guard
+  cannot to transformed into one that follows that case distinction, so @{method wpc} will fail.
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:32]: "cannot be transformed"?

Comment (Xaphiosis) [reply lib/Corres_Cases.thy:32]: bit hazy on meaning of "the concrete guard cannot to transformed into one that follows that case distinction"

File: lib/Corres_Cases.thy [hunk 5]
```diff
@@ -0,0 +1,319 @@
...
+  The best we can do in this case is give each concrete case a different guard (but still one that
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:33]: "but one that still"?

File: lib/Corres_Cases.thy [hunk 6]
```diff
@@ -0,0 +1,319 @@
...
+  fun T_is_datatype (Type (nm,_)) = (Long_Name.base_name nm) = (Long_Name.base_name datatype_name)
+    | T_is_datatype _ = false
+
+  val datatype_var =
+    case (find_first (fn ((_,_),T') => (T_is_datatype T')) vars) of
+      SOME (ix,_) => ix
+    | NONE => error ("Couldn't find datatype in thm: " ^ datatype_name)
+
+  val split' = Drule.infer_instantiate ctxt
+    [(datatype_var, Thm.cterm_of ctxt (List.last args))] split
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:75]: trivial: indent under `Drule.` while we're here

File: lib/Corres_Cases.thy [hunk 7]
```diff
@@ -0,0 +1,319 @@
...
+      case (get_split_rule (Context.proof_of context) t) of
+        SOME thm => thm
+      | NONE => Drule.free_dummy_thm))\<close>
+
+(* Apply a split rule to a goal. Example usage:
+
+   apply_split f "\<lambda>f. corres_underlying sr nf nf' r P P' f f'"
+
+   The corres_underlying term provides the context, and f is the term we expect to be
+   a case statement.  *)
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:94]: does the f in `f` and f in `\lambda f. ?whatever f` have the same significance relative to the `f` mentioned in "and f is the term we expect ..."?

File: lib/Corres_Cases.thy [hunk 8]
```diff
@@ -0,0 +1,319 @@
...
+   universal quantifiers, and implication. Note that there are strong versions for forall/implies
+   where both guards are treated uniformly, and weak versions, where forall/implies is dropped
+   in one guard, but not the other.
+*)
+
+private lemma corres_case_helperI:
+  "corres_case_helper (P, P') (P, P') R \<Longrightarrow> R"
+  by (simp add: corres_case_helper_def)
+
+private lemma corres_case_conj_process:
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:127]: I'm not clear why these are all named `_process` ... is that because they're meant to be used for processing of the ... er, I'm not sure what.

Comment (Xaphiosis) [reply lib/Corres_Cases.thy:127]: Ah, R, the term to be transformed?

File: lib/Corres_Cases.thy [hunk 9]
```diff
@@ -0,0 +1,319 @@
...
+private lemmas corres_case_process =
+  corres_case_conj_process corres_case_all_process corres_case_imp_process
+
+private lemmas corres_case_process_weak =
+  corres_case_conj_process corres_case_all_process_weak corres_case_imp_process_weak
+
+(* Turn goals of the form
+
+   (\<forall>y. x = SomeConstr y \<longrightarrow> corres (?P x) P' (SomeConstr y) g) \<and>
+   (\<forall>y. x = OtherConstr y \<longrightarrow> corres (?P x) P' (SomeConstr y) g) \<and>
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:161]: is the second one supposed to have OtherConstr y and SomeConstr y?

File: lib/Corres_Cases.thy [hunk 10]
```diff
@@ -0,0 +1,319 @@
...
+   \<And>y. x = SomeConstr y \<Longrightarrow> corres (?P1 x y) ?P'1 (SomeConstr y) g)
+   \<And>y. x = OtherConstr y \<Longrightarrow> corres (?P2 x y) ?P'2 (SomeConstr y) g)
+
+   with instantiations
+
+   ?P x = \<lambda>s. (\<forall>y. x = SomeConstr y \<longrightarrow> ?P1 x y s) \<and> (\<forall>y. x = OtherConstr y \<longrightarrow> ?P2 x y s)
+   ?P' = \<lambda>s. ?P'1 s \<and> ?P'2 s
+
+   We do this by first transforming the goal into a corres_case_helper goal, and then applying
+   the corresponding lifting rules. We first try if we can get both sides (?P and ?P') to have
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:175]: "try if" -> "try to"?

File: lib/Corres_Cases.thy [hunk 11]
```diff
@@ -0,0 +1,319 @@
...
+  by (auto simp: corres_case_helper_def elim!: corres_guard_imp)
+
+
+section \<open>Main method definitions\<close>
+
+(* Case distinction on abstract side *)
+method corres_cases_left =
+  determ \<open>
+    corres_pre,
+    (match conclusion in
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:206]: how are you managing to do an Eisbach `match` with schematics around? I thought `match` forced variable focus

File: lib/Corres_Cases.thy [hunk 12]
```diff
@@ -0,0 +1,319 @@
...
+
+(* Case distinction on abstract and concrete side with quadractic blowup, but attempt to solve
+   contradictory side conditions by simp. Cases that are solved by simp will produce \<top> as guard
+   so that no free schematics are introduced into later goals. *)
+method corres_cases_both uses simp =
+  (* corres_pre first, so that the ";" later only refers to corres goals, not the final implications *)
+  determ \<open>
+    corres_pre,
+    (corres_cases_left; corres_cases_right;
+     (solves \<open>rule corres_inst[where P=\<top> and P'=\<top>], simp add: simp\<close>)?)\<close>
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:239]: This one is really interesting, and I think very clever.

File: lib/Corres_Cases.thy [hunk 13]
```diff
@@ -0,0 +1,319 @@
...
+(* some example relation between abstract and concrete values *)
+definition
+  "none_rel x y \<equiv> (x = None) = (y = None)"
+
+lemma
+  "none_rel x y \<Longrightarrow>
+   corres_underlying srel nf nf' rrel G G' (case x of None \<Rightarrow> a | Some y \<Rightarrow> b)
+                                            (case y of None \<Rightarrow> a' | Some y \<Rightarrow> b' y)"
+  (* two cases remain, none_rel is untouched in the cases that remain, but unfolded in the
+     ones that were eliminated *)
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:313]: cool

File: lib/Corres_Cases.thy [hunk 14]
```diff
@@ -0,0 +1,319 @@
...
+  apply (corres_cases_both simp: none_rel_def)
+  oops
+
+end
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:317]: I'm never sure when we cross the threshold into needing tests to be placed in a separate file. This is short, and the extra definition (`none_rel`) shouldn't leak, so all good, but I'm curious as to your opinion on where that threshold lies.

File: lib/Corres_Cases.thy (hunk 8 above)
Comment (Xaphiosis) [reply lib/Corres_Cases.thy:127]: Would `_lift` make sense, given the description above says `enable us to lift`?

**Review by Xaphiosis — APPROVED** [review]
I am happy with the methods and the improvement they provide. Nice! I also like that they manage to do what they do concisely. If I tried to to it, it could've ended up an over-engineered mess. This approach ends up very neat.

I do have some difficulty following some of the textual descriptions, and wonder if I'm too ignorant to be the target audience, or whether the descriptions could become easier. A few Englishisms snuck in there as well.

File: lib/Corres_Cases.thy (hunk 9 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:161]: Oh, very well spotted, that should definitely be both `OtherConstr`

Comment (Xaphiosis) [reply lib/Corres_Cases.thy:161]: Ah, it was a bit confusing. Same on the lines below then!

File: lib/Corres_Method.thy (hunk 1 above)
Comment (lsf37) [reply lib/Corres_Method.thy:13]: yes, apparently `repeat_new` was added ages ago already and the move in here was forgotten/never noticed

File: lib/Corres_Cases.thy (hunk 2 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:17]: That is indeed what it is supposed to mean. Will rephrase.

File: lib/Corres_Cases.thy (hunk 7 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:94]: The lambda describes where the `f` is expected inside the bigger term and the `f` itself is the term we expect to be in the form of a case statement.

File: lib/Corres_Cases.thy (hunk 8 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:127]: The terminology is from `wpc`, which has almost the same lemmas, and calls them `wpc_helper_X_process`. `_lift` would probably be a better name, but then that connection is lost. I could add a comment that this is where the names come from.

File: lib/Corres_Cases.thy (hunk 12 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:239]: This is actually even a tiny bit more powerful than I thought it might be, because we have global simp rules that will solve trivial `corres` statements like `corres .. (return x) (return x)`, so these might also disappear, but only if they are solvable with a trivial guard. I only found that out later in the VSpace examples.

File: lib/Corres_Cases.thy (hunk 14 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:317]: This is pretty close to that line. The section used to be much shorter, but then I introduced the >>E and then corres_cases_both and then the test with schematics and now it's 3 times as long..

File: lib/Corres_Cases.thy (hunk 11 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:206]: Interesting, I adapted that from Dan's code without thinking about schematics. You're right that we'd usually expect them to be frozen. I *think* what is going on is that the pattern matches the schematics explicitly with `for .. P P' ..` which then makes them schematic again on the inside. All other schematics would remain frozen, but that is even  beneficial in this context, because we would not want to touch those.

Comment (Xaphiosis) [reply lib/Corres_Cases.thy:206]: My concern is that "freezing" a schematic *is* touching it, i.e. you cannot instantiate it after it is frozen, which is why we usually can't use `match` in wp proofs. This would indicate that there is a workaround available, but it will only work if the match can mention and re-generalise the schematics directly? Something to think about for sure.

If we end up with a schematic in the assumptions, probably that's a mistake. We really shouldn't see any schematics in the corres bodies... so that leaves the return relation. I don't immediately know of any cases where we'd want to do `corres_cases` with a schematic return relation. What do you think?

File: lib/Corres_Cases.thy (hunk 4 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:32]: I was trying to be concise, but that's probably a mistake. The situation is that for terms like

```
  "⋀x. corres .. (?G x) ?G' (case x of ..) m"
```

if you do case distinction on `x`, you can transform `?G` into e.g. `λx s. (x = None ⟶ ?G1 x s) ∧ (∀y. x = Some y ⟶ ?G2 x y s)`, but you can't do that with `?G'` because `?G'` doesn't depend on `x`. The best you can get for `?G'` is just `?G1' and ?G2'`.

File: lib/Corres_Cases.thy (hunk 8 above)
Comment (Xaphiosis) [reply lib/Corres_Cases.thy:127]: Would help, yes, thank you

File: lib/Corres_Cases.thy (hunk 7 above)
Comment (Xaphiosis) [reply lib/Corres_Cases.thy:94]: But if we have a bind, then `case ...  >>= return ...` would be `f` and not a case statement? Am I being obtuse here?

File: lib/Corres_Cases.thy (hunk 4 above)
Comment (Xaphiosis) [reply lib/Corres_Cases.thy:32]: Ah, that makes sense. I think the original sentence is a bit over-compressed, explaining what "following" "that" case distinction means definitely helped me here.

File: lib/Corres_Cases.thy (hunk 11 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:206]: The freezing is only inside the scope of the `match`, and once the `match` is complete they unfreeze, so if we don't need to interact with them, they should be unchanged. That means schematic return relations should be fine.

For implementing `wp` that is not useful enough, because there we'd usually want them to stay schematic on the inside of the `match` scope, but you are right that explicitly matching them in patterns like `for .. P P' ..` might be a workaround for that. Definitely worth keeping in mind.

File: lib/Corres_Cases.thy (hunk 7 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:94]: The case for bind looks like this:

```
apply_split f "λf. corres_underlying sr nf nf' r P P' (f >>= g) f'"
```

so the `f` is still the case statement, but the larger context term has changed to include the bind.

Comment (Xaphiosis) [reply lib/Corres_Cases.thy:94]: Hmm, I find that a bit confusing. It's a lot of `f`.

Comment (lsf37) [reply lib/Corres_Cases.thy:94]: There are only two `f``, one bound, one free. The free one is expected to be `case ..` the bound one says where in the goal that `case ..` term is.

File: lib/Corres_Cases.thy (hunk 11 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:206]: On second reading, there is unfortunately nothing new here at all: the `for .. P P' ..` doesn't make the `P` schematic inside the `match`, they just become fixed variables. What's going on here is that the `match` scope is small, it only covers `apply_split`, which figures out and the split rule, but does not touch any schematics. The precondition processing happens after all that, when the `match` statement is concluded and the schematics are available again.

File: lib/Corres_Cases.thy (hunk 12 above)
Comment (corlewis) [reply lib/Corres_Cases.thy:239]: It's not for this PR, but it might be worth auditing those simp rules at some point and thinking about whether they should have schematic or fixed preconditions.

It doesn't normally break proofs but I've had instances before where I was annoyed about schematics propagating further than expected due to a trivial `corres` statement not instantiating its preconditions to `⊤`.

**Comment by lsf37** [comment]
(updated with Raf's review feedback)

File: lib/Corres_Cases.thy (hunk 7 above)
Comment (lsf37) [reply lib/Corres_Cases.thy]: (have updated the explanation with a bit more detail)

File: lib/Corres_Cases.thy (hunk 12 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:245]: Yes, it's super annoying, and in the upcoming `corres` method they definitely cause trouble (Dan encountered the same and has a set of "simp rules that break everything"). I was too afraid of a big update to try to get rid of them properly, because I have the feeling they are used almost everywhere where we have a final `return` or `gets`.

Might be best to schedule that update for when we have arch split Refine, then we at least will have to do only one pass and not five.

File: lib/Corres_Cases.thy [hunk 15]
```diff
@@ -0,0 +1,325 @@
...
+  corres/corres_underlying predicates.
+
+  \<^item> corres_cases_left: case distinction on abstract monad
+  \<^item> corres_cases_right: case distinction on concrete monad
+  \<^item> corres_cases: try corres_cases_left, then corres_cases_right
+  \<^item> corres_cases_both: simultaneous (quadratic) case distinction on both sides, with safe
+                       elimination of trivially contradictory cases.
+
+  The first 3 methods take no arguments, corres_cases_both takes an optional simp argument to,
+  for example, unfold relations that synchronise cases between abstract and concrete side.
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:22]: between -> between the ?

File: lib/Corres_Cases.thy [hunk 16]
```diff
@@ -0,0 +1,325 @@
...
+  The case distinctions work if the entire monad is a "case" statement, or if the monad is a
+  @{const bind} or @{const bindE} term with a "case" statement in the head position.
+
+  There is an existing method for case distinctions (@{method wpc}), but this method is not
+  flexible enough for @{term corres}: consider the goal
+  @{text "\<And>x. corres r (?G x) ?G' (case x of None \<Rightarrow> a | Some y \<Rightarrow> b y) m"} -- if we perform
+  case distinction on @{term x}, then we can transform @{text "?G x"} into
+  @{text "\<lambda>x s. (x = None \<longrightarrow> ?Q1 x s) \<and> (\<forall>y. x = Some y \<longrightarrow> ?Q2 x y s)"},
+  but we cannot do the same with @{text "?G'"}, because @{text "?G'"} does not depend on @{text x}.
+  The best we can do is @{text "?G' \<leadsto> \<lambda>s. ?A s \<and> ?B s"}, which so far seems to be good enough
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:33]: what does the squiggly right arrow signify?

File: lib/Corres_Cases.thy [hunk 17]
```diff
@@ -0,0 +1,325 @@
...
+  in our manual proofs.
+
+  The @{method wpc} method will try to treat both preconditions the same and fail on @{text "?G'"}.
+  Extending @{method wpc} so far that it can deal with both situations (uniform treatment of
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:37]: Extending X so far that it -> Extending X until it

File: lib/Corres_Cases.thy [hunk 18]
```diff
@@ -0,0 +1,325 @@
...
+  "corres_case_helper \<equiv> \<lambda>(P, P') (Q, Q') R. (\<forall>s. P s \<longrightarrow> Q s) \<longrightarrow>  (\<forall>s. P' s \<longrightarrow> Q' s) \<longrightarrow> R"
+
+
+(* The following lemmas enable us to lift preconditions of corres_case_helper over conjunction,
+   universal quantifiers, and implication. Note that there are strong versions for forall/implies
+   where both guards are treated uniformly, and weak versions, where forall/implies is dropped
+   in one guard, but not the other.
+
+   The collection of the lemmas below is used to process the term R in corres_case_helper and
+   created appropriately lifted guard/preconditions during that procedure. The names and general
```
Comment (Xaphiosis) [inline lib/Corres_Cases.thy:125]: created -> create

File: lib/Corres_Cases.thy (hunk 11 above)
Comment (Xaphiosis) [reply lib/Corres_Cases.thy:212]: It seems I do not understand variable focus then. My impression was if you focus, *all* schematics freeze (become fixed variables), and then you can't apply schematic manipulation functions as in `wp` goals. I was not aware that if you apply a rule that does not affect the schematic, after the entire application (match + rule) is applied, the schematics unfreeze ... is that right?

**Comment by Xaphiosis** [comment]
Last typos, otherwise I'm happy with it, the explanations are now ones I can follow. Thank you!

File: lib/Corres_Cases.thy (hunk 11 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:212]: > It seems I do not understand variable focus then. My impression was if you focus, _all_ schematics freeze (become fixed variables), and then you can't apply schematic manipulation functions as in `wp` goals. 

That's exactly right.

> I was not aware that if you apply a rule that does not affect the schematic, after the entire application (match + rule) is applied, the schematics unfreeze ... is that right?

The schematics always unfreeze after the match, not matter what you do. The effect is that inside the match you can't instantiate schematics that existed when you matched, but you can do everything else. The main thing that it is trying to make sure is that the focussed proof does not affect state outside the focussed proof (which instantiated schematics would).

File: lib/Corres_Cases.thy (hunk 16 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:33]: It's the Isabelle notation for instantiation (you can see it for instance in schematic_goal)

File: lib/Corres_Cases.thy (hunk 17 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:37]: Hm, "until" doesn't sound right to me. Extending `wpc` is not a process that goes on until we reach enough generality. I'm more trying to express that including the feature in `wpc` would stretch the concepts there by quite a bit and make things messy. It'd be completely possible, but it wouldn't be nice.

Comment (Xaphiosis) [reply lib/Corres_Cases.thy:37]: Your version nears German, so if you want that, maybe:
`Overextending X to deal with both situations?`

File: lib/Corres_Cases.thy (hunk 16 above)
Comment (Xaphiosis) [reply lib/Corres_Cases.thy:33]: Learning all the time!

File: lib/Corres_Cases.thy (hunk 17 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:37]: Ok, have reformulated and shrunk that entire paragraph. No more stretching :-)

Comment (corlewis) [reply lib/Corres_Cases.thy]: As another alternative, maybe `Extending @{method wpc} enough so that it could deal with both situations`?

File: lib/Corres_Cases.thy (hunk 11 above)
Comment (Xaphiosis) [reply lib/Corres_Cases.thy:210]: OK, that makes `match` less useless in schematic goals than I thought! It means that you could maybe use them to apply a rule to a `wp` goal to modify the head of the bind, for example, so long as it can deal with the schematics being frozen. That opens up a new avenue of thinking that I didn't think was possible, thank you so much for explaining.

File: lib/Corres_Cases.thy (hunk 16 above)
Comment (corlewis) [reply lib/Corres_Cases.thy:33]: That's a new one for me as well!

File: lib/Corres_Cases.thy (hunk 17 above)
Comment (corlewis) [reply lib/Corres_Cases.thy]: Sorry, looks like I should have refreshed first, it reads well to me now.
Keeping my pedantic hat on, I think my only other suggestion would be to split the sentence up
```
 even more messy than it already is. We instead re-use the general idea here (in Eisbach instead
  of ML), and leave the @{method wpc} setup clean for other uses.
  ```

File: lib/Corres_Cases.thy [hunk 19]
```diff
@@ -0,0 +1,323 @@
...
+    | NONE => error ("Couldn't find datatype in thm: " ^ datatype_name)
+
+  val split' = Drule.infer_instantiate ctxt
+                                       [(datatype_var, Thm.cterm_of ctxt (List.last args))] split
+
+in SOME split' end
+handle TERM _ => NONE;
+\<close>
+
+(* The above function as an attribute. The term argument is expected to be a case statement. *)
```
Comment (corlewis) [inline lib/Corres_Cases.thy:79]: This might be a failing of my expectations, but this comment took me quite a while to understand. My brain kept on trying to interpret 'function' as a verb, which doesn't make sense for any potential interpretation. It's probably fine to leave it as is, but I think something like `The following is the above function as an attribute` would fix it for anyone who has the same problem as me.

**Review by corlewis — APPROVED** [review]
Very cool work, the examples demonstrating the reduced need for manual instantiation are particularly encouraging.

My only remaining confusion is why `wpc` seems to work in crefine. Do we just avoid the cases where the guards don't depend on the bound variable being split? If so that suggests we might want something very similar to this for `ccorres` as well.

**Comment by lsf37** [comment]
> My only remaining confusion is why `wpc` seems to work in crefine. Do we just avoid the cases where the guards don't depend on the bound variable being split? If so that suggests we might want something very similar to this for `ccorres` as well.

I was thinking that the problem doesn't occur in `ccorres`, because we don't have a normal `rv` thing going on on the C side, and I thought that eliminates the problem. But a) we do have things like symbolic execution, and b) that actually makes the problem worse, because the abstract guard will depend on abstract goal parameters, and the C guard will not, which is exactly the case I'm trying to solve.

So I think you're right and we should probably be doing the same thing for `ccorres`. Do we have cases where `wpc` mysteriously doesn't work on `ccorres`? (because that's probably because of exactly this issue).

File: lib/Corres_Cases.thy (hunk 16 above)
Comment (lsf37) [reply lib/Corres_Cases.thy:33]: Should I replace it with `=` instead? If you both haven't seen it, it's likely that others haven't either.

**Comment by corlewis** [comment]
> So I think you're right and we should probably be doing the same thing for `ccorres`. Do we have cases where `wpc` mysteriously doesn't work on `ccorres`? (because that's probably because of exactly this issue).

I don't know about one with `wpc`, but I have definitely had cases in `ccorres` where I wanted to split a concrete `IF .. THEN .. ELSE ..` and the abstract precondition didn't have the required bound variable.

**Comment by lsf37** [comment]
> > So I think you're right and we should probably be doing the same thing for `ccorres`. Do we have cases where `wpc` mysteriously doesn't work on `ccorres`? (because that's probably because of exactly this issue).
> 
> I don't know about one with `wpc`, but I have definitely had cases in `ccorres` where I wanted to split a concrete `IF .. THEN .. ELSE ..` and the abstract precondition didn't have the required bound variable.

Right, that's another case we should treat. I should probably start collecting these in an issue.
